US04929618
2.00 g (6.61 mmol) of 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine and 1.43 g (7.90 mmol) of ethyl 3-bromopropionate were dissolved in 10 ml of dioxane, and 1.09 g (7.89 mmol) of potassium carbonate was added to the mixed solution, and then the mixture was stirred under heating at an oil bath temperature of around 80° C. for 8 hours. After the reaction, the insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The residue was separated by silica gel column chromatography using a solvent mixture of chloroform and methanol in the volume ratio 19:1 as are eluent. The desired fraction was concentrated under reduced pressure to give 1.78 g (67%) of ethyl 3-[4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-piperidyl]-propionate.

reactant | 4-[(4-chlorophenyl)-2-pyridylmethoxy]piperidine | 6.61 mmol, 2.00 g | ClC1=CC=C(C=C1)C(OC1CCNCC1)C1=NC=CC=C1 | C17H19ClN2O
reactant | ethyl 3-bromopropionate | 7.90 mmol, 1.43 g | BrCCC(=O)OCC | C5H9BrO2
reactant | potassium carbonate | 7.89 mmol, 1.09 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | ethyl 3-[4-[(4-chlorophenyl)-2-pyridylmethoxy]-1-piperidyl]-propionate | 1.78 g, 67% | ClC1=CC=C(C=C1)C(OC1CCN(CC1)CCC(=O)OCC)C1=NC=CC=C1 | C22H27ClN2O3
